US04010177
In the manner given in Preparation 29, 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with methyl(cyclopropylmethyl)amine to give 8-(trifluoromethyl)-1-[[(cyclopropylmethyl)methylamino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 33 8-Chloro-1-[[(cyclopropylmethyl)propylamino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1)(F)F | C18H11Cl2F3N4
reactant | methyl(cyclopropylmethyl)amine | CNCC1CC1 | C5H11N
product | 8-(trifluoromethyl)-1-[[(cyclopropylmethyl)methylamino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)CC3CC3)C3=C(C=CC=C3)Cl)C1)(F)F | C23H21ClF3N5
